US07271179B2
Synthesis of 5-Chloro-[1,3,4]thiadiazole-2-carboxylic Acid (7-chloro-quinolin-4-yl)-amide
NaH (0.023 g, 0.58 mmol) was added in portions to a solution of 4-amino-7-chloro-quinoline (0.1 g, 0.56 mmol) in DMF (6 ml) at room temperature and the mixture was stirred for 20 min. 5-Chloro-[1,3,4]thiadiazole derivative (0.108 g, 0.56 mmol) was then added in one portion and the mixture heated at 80° C. (oil bath temperature) for 18 h. The reaction mixture was allowed to cool to room temperature and water (15 ml) was added. The precipitate was separated by filtration, washed with Et2O and dried to afford the product (0.08 g, 60% yield).

reactant | NaH | 0.58 mmol, 0.023 g | [H-].[Na+]
reactant | 4-amino-7-chloro-quinoline | 0.56 mmol, 0.1 g | NC1=CC=NC2=CC(=CC=C12)Cl | C9H7ClN2
reactant | 5-Chloro-[1,3,4]thiadiazole | 0.56 mmol, 0.108 g | ClC1=NN=CS1 | C2HClN2S
reactant | water | 15 ml | O | H2O
reactant | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 5-Chloro-[1,3,4]thiadiazole-2-carboxylic Acid (7-chloro-quinolin-4-yl)-amide | 0.08 g, 60% yield | ClC1=CC=C2C(=CC=NC2=C1)NC(=O)C=1SC(=NN1)Cl | C12H6Cl2N4OS
